US03957819
Cyclisation of 2-(3-chloropropylamino)-3-phenyl-3H-indol-3-ol with sodium methoxide by a process analogous to that described in Example 3 gives 2,3,4,10-tetrahydro-10-phenylpyrimido[1,2-a]indol-10-ol.

reactant | 2-(3-chloropropylamino)-3-phenyl-3H-indol-3-ol | ClCCCNC1=NC2=CC=CC=C2C1(O)C1=CC=CC=C1 | C17H17ClN2O
reactant | sodium methoxide | C[O-].[Na+]
product | 2,3,4,10-tetrahydro-10-phenylpyrimido[1,2-a]indol-10-ol | C1(=CC=CC=C1)C1(C=2N(C=3C=CC=CC13)CCCN2)O | C17H16N2O
